US04719302
[[[3-(Acetylamino)-4-fluorophenyl]amino]methylene]propanedioic acid diethyl ester
A mixture of 26.56 g (0.1579 mol) of 2-(N-acetylamino)-4-amino-1-fluorobenzene, 35.89 ml (0.1776 mol) of diethyl ethoxymethylenemalonate, and 30 ml of toluene is stirred at 130° C. for 3 hours. After cooling, the precipitate which forms is triturated with ether to yield 50.64 g (94.8%) of title compound as a white solid:

reactant | 2-(N-acetylamino)-4-amino-1-fluorobenzene | 0.1579 mol, 26.56 g | C(C)(=O)NC1=C(C=CC(=C1)N)F | C8H9FN2O
reactant | diethyl ethoxymethylenemalonate | 0.1776 mol, 35.89 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | [[[3-(Acetylamino)-4-fluorophenyl]amino]methylene]propanedioic acid diethyl ester | 50.64 g, 94.8% | C(C)OC(C(C(=O)OCC)=CNC1=CC(=C(C=C1)F)NC(C)=O)=O | C16H19FN2O5
